US05998463
1-Ethyl-5-Propionyl-2,3-dihydro-indol-2-one.
Prepared from readily available starting materials (N-ethyloxindole and propionyl chloride) in a manner analogous to that set forth in Preparation 18.

reactant | N-ethyloxindole | C(C)N1C(CC2=CC=CC=C12)=O | C10H11NO
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
product | 1-Ethyl-5-Propionyl-2,3-dihydro-indol-2-one | C(C)N1C(CC2=CC(=CC=C12)C(CC)=O)=O | C13H15NO2
